* source MESA_DE_MEZCLAS
C_CANAL1_C1         CANAL1_VIN CANAL1_N00354  2.2u  TC=0,0 
C_CANAL1_C2         CANAL1_N00459 CANAL1_N00448  3.3n  TC=0,0 
R_CANAL1_R1         CANAL1_N00354 CANAL1_N00320  10k TC=0,0 
R_CANAL1_R2         CANAL1_N00324 ENTRADA_DJ_CH1  10k TC=0,0 
R_CANAL1_R3         CANAL1_N00354 CANAL1_N00432  2.2k TC=0,0 
R_CANAL1_R4         CANAL1_N00444 ENTRADA_DJ_CH1  2.2k TC=0,0 
R_CANAL1_R5         CANAL1_N00382 CANAL1_N00448  9k TC=0,0 
X_CANAL1_U1A         0 CANAL1_N00448 5 -5 ENTRADA_DJ_CH1 TL082/301/TI
C_CANAL1_C3         CANAL1_N00320 CANAL1_N00324  33n  TC=0,0 
X_CANAL1_R6         CANAL1_N00320 CANAL1_N00382 CANAL1_N00324 POT PARAMS: SET=
+ {graves} VALUE=100k
X_CANAL1_R7         CANAL1_N00432 CANAL1_N00459 CANAL1_N00444 POT PARAMS: SET=1
+  VALUE=470k
V_CANAL1_V1         CANAL1_VIN 0 DC 0Vdc AC 0.1Vac 
C_CANAL2_C1         CANAL2_VIN2 CANAL2_N02102  2.2u  TC=0,0 
R_CANAL2_R4         CANAL2_N02370 ENTRADA_DJ_CH2  2.2k TC=0,0 
X_CANAL2_U1A         0 CANAL2_N02194 5 -5 ENTRADA_DJ_CH2 TL082/301/TI
R_CANAL2_R3         CANAL2_N02102 CANAL2_N02364  2.2k TC=0,0 
R_CANAL2_R1         CANAL2_N02102 CANAL2_N01984  10k TC=0,0 
R_CANAL2_R5         CANAL2_N02150 CANAL2_N02194  9k TC=0,0 
R_CANAL2_R2         CANAL2_N01994 ENTRADA_DJ_CH2  10k TC=0,0 
X_CANAL2_R7         CANAL2_N02364 CANAL2_N02394 CANAL2_N02370 POT PARAMS: SET=0
+  VALUE=470k
X_CANAL2_R6         CANAL2_N01984 CANAL2_N02150 CANAL2_N01994 POT PARAMS: SET=
+ {graves} VALUE=100k
C_CANAL2_C2         CANAL2_N02394 CANAL2_N02194  3.3n  TC=0,0 
C_CANAL2_C3         CANAL2_N01984 CANAL2_N01994  33n  TC=0,0 
V_CANAL2_V1         CANAL2_VIN2 0 DC 0Vdc AC 0.1Vac 
X_BALANCE_PUBLICO_R1         BALANCE_PUBLICO_N01896 BALANCE_PUBLICO_N01889
+  BALANCE_PUBLICO_N01865 POT PARAMS: SET=0.5 VALUE=50K
X_BALANCE_PUBLICO_R2         BALANCE_PUBLICO_N01972 BALANCE_PUBLICO_N01965
+  BALANCE_PUBLICO_N01961 POT PARAMS: SET=0.5 VALUE=50K
R_BALANCE_PUBLICO_R3         ENTRADA_DJ_CH1 BALANCE_PUBLICO_N01865  5K TC=0,0 
R_BALANCE_PUBLICO_R4         ENTRADA_DJ_CH2 BALANCE_PUBLICO_N01961  5K TC=0,0 
X_BALANCE_PUBLICO_U1A         0 BALANCE_PUBLICO_N01889 5V -5V
+  BALANCE_PUBLICO_N01896 TL082/301/TI
X_BALANCE_PUBLICO_U1B         0 BALANCE_PUBLICO_N01965 5V -5V
+  BALANCE_PUBLICO_N01972 TL082/301/TI
X_BALANCE_PUBLICO_U2         0 BALANCE_PUBLICO_N02519 5V -5V SALIDA_PUBLICO
+  OP-07C/301/TI
R_BALANCE_PUBLICO_R5         BALANCE_PUBLICO_N02519 SALIDA_PUBLICO  5M TC=0,0 
R_BALANCE_PUBLICO_R6         BALANCE_PUBLICO_N02519 BALANCE_PUBLICO_N01896  10K
+  TC=0,0 
R_BALANCE_PUBLICO_R7         BALANCE_PUBLICO_N01972 BALANCE_PUBLICO_N02519  10K
+  TC=0,0 
X_BALANCE_DJ_R2         BALANCE_DJ_N03496 BALANCE_DJ_N03536 BALANCE_DJ_N03602
+  POT PARAMS: SET=0.5 VALUE=50K
X_BALANCE_DJ_U1A         0 BALANCE_DJ_N03234 5V -5V BALANCE_DJ_N03226
+  TL082/301/TI
R_BALANCE_DJ_R3         ENTRADA_DJ_CH1 BALANCE_DJ_N03310  5K TC=0,0 
X_BALANCE_DJ_U3B         0 BALANCE_DJ_N03536 5V -5V BALANCE_DJ_N03496
+  TL082/301/TI
R_BALANCE_DJ_R4         ENTRADA_DJ_CH2 BALANCE_DJ_N03602  5K TC=0,0 
R_BALANCE_DJ_R6         BALANCE_DJ_N03346 BALANCE_DJ_N03226  10K TC=0,0 
X_BALANCE_DJ_R1         BALANCE_DJ_N03226 BALANCE_DJ_N03234 BALANCE_DJ_N03310
+  POT PARAMS: SET=0.5 VALUE=50K
R_BALANCE_DJ_R5         BALANCE_DJ_N03346 ENTRADA_AURICULARES  100K TC=0,0 
X_BALANCE_DJ_U2         0 BALANCE_DJ_N03346 5V -5V ENTRADA_AURICULARES
+  OP-07C/301/TI
R_BALANCE_DJ_R7         BALANCE_DJ_N03496 BALANCE_DJ_N03346  10K TC=0,0 
C_AURICULARES_C1         AURICULARES_N00291 ENTRADA_AURICULARES  10u  
X_AURICULARES_U1A         AURICULARES_N00291 AURICULARES_N00430 5V -5V
+  AURICULARES_N00483 TL082
R_AURICULARES_R1         0 AURICULARES_N00291  10K TC=0,0 
R_AURICULARES_R2         0 AURICULARES_N00430  10K TC=0,0 
R_AURICULARES_R6         AURICULARES_N01079 AURICULARES_N00430  71.2K TC=0,0 
D_AURICULARES_D1         AURICULARES_N00946 AURICULARES_N00483 D1N4148 
D_AURICULARES_D2         AURICULARES_N00483 AURICULARES_N01000 D1N4148 
R_AURICULARES_R12         AURICULARES_N00946 5V  1K TC=0,0 
R_AURICULARES_R11         -5V AURICULARES_N01000  1K TC=0,0 
R_AURICULARES_R10         AURICULARES_N01079 AURICULARES_N00960  1 TC=0,0 
R_AURICULARES_R9         AURICULARES_N01083 AURICULARES_N01079  1 TC=0,0 
Q_AURICULARES_Q1         -5V AURICULARES_N01000 AURICULARES_N01083 MPSA92
Q_AURICULARES_Q3         5V AURICULARES_N00946 AURICULARES_N00960 MPSA42
C_AURICULARES_C2         AURICULARES_N01079 SALIDA_AURICULARES  220u  
R_AURICULARES_R8         SALIDA_AURICULARES 0  33 TC=0,0 
V_AURICULARES_V2         ENTRADA_AURICULARES 0  AC 0
+SIN 0 0.447 1K 0 0 0
.PARAM  graves=0.5
